US08383644B2
2-tert-Butoxycarbonylamino-4-methyl-thiazole-5-carboxylic acid (0.52 g) was dissolved in THF: MeOH (2:1, 10 mL) and 2 eq of TMSCHN2 (2M sln in hex) was added at RT and stirred for 6 h. All volatiles were removed in vacuum by rotavap and the residue was dried in vacuum to give 2-tert-Butoxycarbonylamino-4-methyl-thiazole-5-carboxylic acid methyl ester (0.52 g). This was used in the next reaction without further purification. 1H NMR (400 MHz, CDCl3) 3.83 (s, 3H), 2.65 (s, 3H), 1.54 (s, 9H).

reactant | 2-tert-Butoxycarbonylamino-4-methyl-thiazole-5-carboxylic acid | 0.52 g | C(C)(C)(C)OC(=O)NC=1SC(=C(N1)C)C(=O)O | C10H14N2O4S
reactant | TMSCHN2 | 2M, 2 eq | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | THF MeOH | 10 mL | C1CCOC1.CO
product | 2-tert-Butoxycarbonylamino-4-methyl-thiazole-5-carboxylic acid methyl ester | 0.52 g | COC(=O)C1=C(N=C(S1)NC(=O)OC(C)(C)C)C | C11H16N2O4S
